US08084448B2
3-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-2-methylpropionic Acid Tert-butyl Ester
The title compound is prepared from 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one and t-butyl methacrylate analogous to Example 133 with the modification that the TMS-ethyl group is removed after the Heck reaction.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | t-butyl methacrylate | C(C(=C)C)(=O)OC(C)(C)C | C8H14O2
product | 3-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-2-methylpropionic Acid Tert-butyl Ester | C(C)(C)(C)OC(C(CC1=CC(=C(C=C1)N1S(NC(C1)=O)(=O)=O)O)C)=O | C16H22N2O6S
